US08614226B2
A slurry of 352 mg (2.04 mmol) 2-amino-5-bromo-pyridine, 678 mg (2.24 mmol) 2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid and 1.33 g (4.07 mmol) cesium carbonate in 10 ml dioxane and 2 ml water was heated to 80° C. under nitrogen. Then 118 mg (0.10 mmol) tetrakis-(triphenylphosphine)-palladium(0) were added and the reaction mixture was stirred for 1 hour at 100° C. The reaction mixture was cooled to room temperature and water and dichloromethane were added. The resulting precipitate was filtered off, washed with water and dried in vacuo yielding 5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine as brown crystals; HPLC-MS: 1.43 min, [M+H] 351.

reactant | 2-amino-5-bromo-pyridine | 2.04 mmol, 352 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridine-4-boronic acid | 2.24 mmol, 678 mg | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)B(O)O)F | C14H9BClFN2O2
reactant | cesium carbonate | 4.07 mmol, 1.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
catalyst | tetrakis-(triphenylphosphine)-palladium(0) | 0.10 mmol, 118 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-[2-(5-chloro-2-fluoro-phenyl)-[1,8]naphthyridin-4-yl]-pyridin-2-ylamine | ClC=1C=CC(=C(C1)C1=NC2=NC=CC=C2C(=C1)C=1C=CC(=NC1)N)F | C19H12ClFN4
